US07820699B2
94.3 A suspension of 60 mg 5-chloro-thiophene-2-carboxylic acid {(3S,4S)-4-methoxy-1-[(4,5,6,7-tetrahydro-thiazolo[5,4]pyridin-2-ylcarbamoyl)-methyl]-pyrrolidin-3-yl}-amide dihydrochloride in 3 ml THF was treated with 0.03 ml TEA and 0.01 ml 2-iodopropane. After stirring at r.t. overnight, the reaction mixture was again treated with 0.03 ml TEA and 0.03 ml 2-iodopropane and heated to 70° C. overnight. Then, it was concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2->CH2Cl2/MeOH 9:1) to give 51 mg 5-chloro-thiophene-2-carboxylic acid {(3S,4S)-1-[(5-isopropyl-4,5,6,7-tetrahydro-thiazolo[5,4]pyridin-2-ylcarbamoyl)-methyl]-4-methoxy-pyrrolidin-3-yl}-amide as yellow solid. MS 498.4 ([M+H]+)

reactant | 5-chloro-thiophene-2-carboxylic acid {(3S,4S)-4-methoxy-1-[(4,5,6,7-tetrahydro-thiazolo[5,4]pyridin-2-ylcarbamoyl)-methyl]-pyrrolidin-3-yl}-amide dihydrochloride | 60 mg | Cl.Cl.CO[C@@H]1[C@H](CN(C1)CC(NC=1SC=2CCCNC2N1)=O)NC(=O)C=1SC(=CC1)Cl
reactant | 2-iodopropane | 0.01 ml | IC(C)C | C3H7I
reactant | 2-iodopropane | 0.03 ml | IC(C)C | C3H7I
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-chloro-thiophene-2-carboxylic acid {(3S,4S)-1-[(5-isopropyl-4,5,6,7-tetrahydro-thiazolo[5,4]pyridin-2-ylcarbamoyl)-methyl]-4-methoxy-pyrrolidin-3-yl}-amide | 51 mg | C(C)(C)C1NC2=C(CC1)SC(=N2)NC(=O)CN2C[C@@H]([C@H](C2)OC)NC(=O)C=2SC(=CC2)Cl | C21H28ClN5O3S2
